US06057311
a. 2-benzyloxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
Benzyl chloroformate (1.8 ml, 12.6 mmol) was added to a solution of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (1.72 g, 10.0 mmol) and sodium bicarbonate (1.85 g, 22.0 mmol) in dioxan (50 ml) at room temperature. The mixture was stirred at room temperature for 16 hours, concentrated in vacuo and the residue dissolved in water (50 ml). The aqueous mixture was extracted with chloroform (3×50 ml), and the combined extracts dried (MgSO4). Filtration and evaporation of the solvent gave the crude product which was purified by chromatography on silica gel with hexane-ethyl acetate (3:2) as eluant. (3.07 g, 100%).

reactant | Benzyl chloroformate | 12.6 mmol, 1.8 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 10.0 mmol, 1.72 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | sodium bicarbonate | 22.0 mmol, 1.85 g | C([O-])(O)=O.[Na+]
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 2-benzyloxycarbonyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C19H18N2O2
